US08183393B2
Synthesis of 4-bromo-4′-(naphthylphenylamino)biphenyl (2N)
A mixture of 4,4′-dibromobiphenyl (8.46 g=27.4 mmol), Pd(OAc)2 (105 mg=0.18 mmol), dppf (253 mg=0.46 mmol), N-(1-naphthyl)aniline (2.0 g=9.13 mmol) and sodium t-butoxide (1.32 g=13.7 mmol) in dry toluene was placed in a three-necked flask under a nitrogen atmosphere and stirred at 90° C. for 15 h. After cooling, the reaction was quenched by adding water and then extracted by ethyl acetate. The organic layer was dried over anhydrous MgSO4 and evaporated under vacuum. The products were purified by a silica gel column eluted with hexane. White solid of compound 2N was obtained in 70% yield (2.86 g=6.37 mmol).

reactant | 4,4′-dibromobiphenyl | 27.4 mmol, 8.46 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)Br | C12H8Br2
reactant | N-(1-naphthyl)aniline | 9.13 mmol, 2.0 g | C1(=CC=CC2=CC=CC=C12)NC1=CC=CC=C1 | C16H13N
reactant | sodium t-butoxide | 13.7 mmol, 1.32 g | CC(C)([O-])C.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.18 mmol, 105 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | dppf | 0.46 mmol, 253 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 4-bromo-4′-(naphthylphenylamino)biphenyl | 2N, 70% yield | BrC1=CC=C(C=C1)C1=CC=C(C=C1)N(C1=CC=CC=C1)C1=CC=CC2=CC=CC=C12 | C28H20BrN
